### PR TITLE
[Merged by Bors] - feat: port Algebra.GCDMonoid.Finset

### PR DESCRIPTION
**Pull request by maxwell-thum**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GCDMonoid/Finset.lean [hunk 1]
```diff
@@ -0,0 +1,321 @@
...
+  lcm_dvd_iff.1 dvd_rfl _ hb
+#align finset.dvd_lcm Finset.dvd_lcm
+
+@[simp]
+theorem lcm_insert [DecidableEq β] {b : β} :
+    (insert b s : Finset β).lcm f = GCDMonoid.lcm (f b) (s.lcm f) :=
+  by
+  by_cases h : b ∈ s
+  ·
+    rw [insert_eq_of_mem h,
```
Comment (jcommelin) [inline Mathlib/Algebra/GCDMonoid/Finset.lean:86]:
```suggestion
    (insert b s : Finset β).lcm f = GCDMonoid.lcm (f b) (s.lcm f) := by
  by_cases h : b ∈ s
  · rw [insert_eq_of_mem h,
```

File: Mathlib/Algebra/GCDMonoid/Finset.lean [hunk 2]
```diff
@@ -0,0 +1,321 @@
...
+#align finset.lcm_def Finset.lcm_def
+
+@[simp]
+theorem lcm_empty : (∅ : Finset β).lcm f = 1 :=
+  fold_empty
+#align finset.lcm_empty Finset.lcm_empty
+
+@[simp]
+theorem lcm_dvd_iff {a : α} : s.lcm f ∣ a ↔ ∀ b ∈ s, f b ∣ a :=
+  by
```
Comment (jcommelin) [inline Mathlib/Algebra/GCDMonoid/Finset.lean:66]:
```suggestion
theorem lcm_dvd_iff {a : α} : s.lcm f ∣ a ↔ ∀ b ∈ s, f b ∣ a := by
```

File: Mathlib/Algebra/GCDMonoid/Finset.lean [hunk 3]
```diff
@@ -0,0 +1,321 @@
...
+theorem normalize_lcm : normalize (s.lcm f) = s.lcm f := by simp [lcm_def]
+#align finset.normalize_lcm Finset.normalize_lcm
+
+theorem lcm_union [DecidableEq β] : (s₁ ∪ s₂).lcm f = GCDMonoid.lcm (s₁.lcm f) (s₂.lcm f) :=
+  Finset.induction_on s₁ (by rw [empty_union, lcm_empty, lcm_one_left, normalize_lcm])
+    fun a s _ ih ↦ by rw [insert_union, lcm_insert, lcm_insert, ih, lcm_assoc]
+#align finset.lcm_union Finset.lcm_union
+
+theorem lcm_congr {f g : β → α} (hs : s₁ = s₂) (hfg : ∀ a ∈ s₂, f a = g a) : s₁.lcm f = s₂.lcm g :=
+  by
```
Comment (jcommelin) [inline Mathlib/Algebra/GCDMonoid/Finset.lean:107]:
```suggestion
theorem lcm_congr {f g : β → α} (hs : s₁ = s₂) (hfg : ∀ a ∈ s₂, f a = g a) : s₁.lcm f = s₂.lcm g := by
```

**Review by jcommelin — COMMENTED** [review]
I need to run for a bit, please extrapolate my comments to the rest of the file.

File: Mathlib/Algebra/GCDMonoid/Finset.lean [hunk 4]
```diff
@@ -0,0 +1,313 @@
...
+end Finset
+
+namespace Finset
+
+section IsDomain
+
+variable [CommRing α] [IsDomain α] [NormalizedGCDMonoid α]
+
+theorem gcd_eq_of_dvd_sub {s : Finset β} {f g : β → α} {a : α} (h : ∀ x : β, x ∈ s → a ∣ f x - g x)
+    : GCDMonoid.gcd a (s.gcd f) = GCDMonoid.gcd a (s.gcd g) := by
```
Comment (jcommelin) [inline Mathlib/Algebra/GCDMonoid/Finset.lean:299]:
```suggestion
theorem gcd_eq_of_dvd_sub {s : Finset β} {f g : β → α} {a : α} (h : ∀ x : β, x ∈ s → a ∣ f x - g x) :
    GCDMonoid.gcd a (s.gcd f) = GCDMonoid.gcd a (s.gcd g) := by
```
